US05399578
750 mg of (S)-N-butanesulfonyl-N-(1-tert.-butoxycarbonylethyl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine are treated for 24 hours at 0° with a solution of hydrogen chloride in glacial acetic acid (1.9N). Evaporation of the mixture and flash-chromatography of the residue (100 g of silica gel; CH2Cl2 /ethyl acetate/toluene/formic acid=40:40:20:4) yields the (S)-N-butanesulfonyl-N-(1-carboxyethyl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine in the form of a white amorphous powder [m.p.: 90° (decomposition at 127°)].

reactant | (S)-N-butanesulfonyl-N-(1-tert.-butoxycarbonylethyl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | 750 mg | C(CCC)S(=O)(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)[C@@H](C)C(=O)OC(C)(C)C | C25H33N5O4S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 1.9N | C(C)(=O)O | C2H4O2
product | (S)-N-butanesulfonyl-N-(1-carboxyethyl)-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(CCC)S(=O)(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)[C@@H](C)C(=O)O | C21H25N5O4S
